US06479519B1
(R)-3-Amino-3-(4-{3-methoxy-4-[3-(2-methylphenyl)ureido]phenylacetylamino}phenyl)-propanoic acid methyl ester
A mixture of (R)-3-benzyloxycarbonylamino-3-(4-{3-methoxy-4-[3-(2-methylphenyl)ureido]-phenylacetylamino}phenyl)-propanoic acid methyl ester (18.55 g), ethanol (750 ml) and formic acid (18 ml), under an atmosphere of hydrogen, was heated at reflux. The reaction was treated portionwise with 10% palladium on charcoal (3.0 g) over a period of 1 hour and then heated at reflux for a further 1 hour. The reaction mixture was filtered through a short pad of diatomaceous earth and the filter pad was washed three times with ethanol (75 ml) and water (75 ml). The combined filtrate and washings were evaporated. The residue was treated carefully with aqueous solution of sodium bicarbonate (600 ml, 0.6M) followed by stirring for 15 minutes. The resultant white solid was collected, washed twice with water (100 ml), then boiled in acetonitrile in the presence of activated charcoal (150 mg). The mixture was filtered through a short pad of diatomaceous earth while hot and the filtrate cooled in ice to yield the title compound (7.6 g) as a white solid m.p. 189-191° C.

reactant | (R)-3-benzyloxycarbonylamino-3-(4-{3-methoxy-4-[3-(2-methylphenyl)ureido]-phenylacetylamino}phenyl)-propanoic acid methyl ester | 18.55 g | COC(C[C@H](C1=CC=C(C=C1)NC(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)OC)=O)NC(=O)OCC1=CC=CC=C1)=O | C35H36N4O7
reactant | ethanol | 750 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 3.0 g | [Pd] | Pd
solvent | formic acid | 18 ml | C(=O)O | CH2O2
product | (R)-3-Amino-3-(4-{3-methoxy-4-[3-(2-methylphenyl)ureido]phenylacetylamino}phenyl)-propanoic acid methyl ester | 7.6 g | COC(C[C@H](C1=CC=C(C=C1)NC(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)OC)=O)N)=O | C27H30N4O5
